US04977146
STEP 16F: trans-2-[3-(2-Hydroxyethylsulfonyl)-4-n-propoxy-5-hydroxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran.
A solution of trans-2-[3-(2-hydroxyethylsulfonyl)-4-n-propoxy-5-benzyloxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetra-hydrofuran (440 mg) in ethyl acetate (6 mL) was hydrogenated over 10% palladium on charcoal (120 mg) at 45 psi for 1 h. The catalyst was filtered off and washed with ethyl acetate. The combined filtrates were evaporated to give the title compound Rf 0.1 (hexane-ethyl acetate; 1:1, v/v); NMR (CDCl3) δ 1.07 (t, CH2CH2CH3), 3.60 (q, SO2CH2), 3.95 (q, SO2CH2CH2), 3.84 (s, OCH3), 3.88 (s, 2 OCH3), 4.11 (t, CH2CH2CH3), 5.13-5.25 (m, H-2 & H-5), 6.61 (s, 2 H, C5ArH), 7.32 & 7.49 (2 d, J=2.0 Hz, C2ArH).

reactant | trans-2-[3-(2-hydroxyethylsulfonyl)-4-n-propoxy-5-benzyloxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetra-hydrofuran | 440 mg | OCCS(=O)(=O)C=1C=C(C=C(C1OCCC)OCC1=CC=CC=C1)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C31H38O9S
solvent | ethyl acetate | 6 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 120 mg | [Pd] | Pd
product | trans-2-[3-(2-Hydroxyethylsulfonyl)-4-n-propoxy-5-hydroxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran | OCCS(=O)(=O)C=1C=C(C=C(C1OCCC)O)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C24H32O9S
